US05216015
Step 3: Preparation of E-methyl-5-hydroxy-3-oxo-7-tributylstannyl-6-heptenoate
A suspension of sodium hydride (1.28 g) in tetrahydrofuran (70 ml) is cooled to 0° C. and methyl acetoacetate (3.2 ml) added over about 1 minute. The mixture is stirred for about 15 minutes at 0° C., 2.5M n-butyllithium in hexane (12.3 ml) added, stirred for about 20 minutes, E-3-tributylstannylacrolein (10.0 g) in tetrahydrofuran (25 ml) added over five minutes and stirred for about 15 minutes. The mixture is quenched by slow addition of 1M hydrochloric acid, diluted with ether. The aqueous layer is back-extracted with ether and the combined organic solutions washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product is purified by flash chromatography in 25% ethyl acetate in hexane to give the desired product.

reactant | sodium hydride | 1.28 g | [H-].[Na+]
reactant | methyl acetoacetate | 3.2 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | E-3-tributylstannylacrolein | 10.0 g | C(CCC)[Sn](/C=C/C=O)(CCCC)CCCC
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexane | 12.3 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | E-methyl-5-hydroxy-3-oxo-7-tributylstannyl-6-heptenoate | COC(CC(CC(\C=C\[Sn](CCCC)(CCCC)CCCC)O)=O)=O | InChI=1S/C8H11O4.3C4H9.Sn/c1-3-6(9)4-7(10)5-8(11)12-2;3*1-3-4-2;/h1,3,6,9H,4-5H2,2H3;3*1,3-4H2,2H3;
